US05559111
b) 2-Methyl-2-morpholino-propionic acid amide
272 ml of concentrated sulfuric acid are slowly added, with stirring, to 57.9 g of 2-methyl-2-morpholino-propionitrile (exothermic reaction). After the addition of 43 ml of water, the mixture is stirred for 2 hours at 100°-110° C. The reaction mixture is cooled to 50° C. and added dropwise at 0° C. to a solution of 846 ml of 20% ammonia in 242 ml of water. The mixture is then extracted repeatedly with dichloromethane. The organic phases are washed with saturated sodium chloride solution and with sodium sulfate. The crude title compound is obtained from the concentrated filtrate: 1H NMR (CDCl3), δ(ppm)=7.08 (1H, bs), 5.38 (1H, bs), 3.72(4H, m), 2.53 (4H, m), 1.22(6H, s)

reactant | sulfuric acid | 272 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-methyl-2-morpholino-propionitrile | 57.9 g | CC(C#N)(C)N1CCOCC1 | C8H14N2O
reactant | ammonia | 846 ml | N | H3N
solvent | water | 242 ml | O | H2O
solvent | water | 43 ml | O | H2O
product | 2-Methyl-2-morpholino-propionic acid amide | CC(C(=O)N)(C)N1CCOCC1 | C8H16N2O2
